US04609730
Pyridine (0.39 ml) was added to a suspension of phosphorus pentachloride (1.01 ml) in dry methylene chloride (25 ml) at 5° C., and the mixture was stirred at ambient temperature for 30 minutes. Benzhydryl 7-phenylacetamido-3-(2,2-dibromovinyl)-3-cephem-4-carboxylate (2.5 g) was added to the above mixture at -10° C. and stirred for two-hours. Then, methylcellosolve (2.3 ml) was added to the reaction mixture at -30° C. and the resulting solution was stirred for an hour. To the above solution was added 5 ml of water and the separated organic layer was washed in turn with a saturated aqueous solution of sodium bicarbonate and brine, dried. The solvent was evaporated to give benzhydryl 7-amino-3-(2,2-dibromovinyl)-3-cephem-4-carboxylate (1.7 g).

reactant | Pyridine | 0.39 ml | N1=CC=CC=C1 | C5H5N
reactant | phosphorus pentachloride | 1.01 ml | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | Benzhydryl 7-phenylacetamido-3-(2,2-dibromovinyl)-3-cephem-4-carboxylate | 2.5 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C=C(Br)Br)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C30H24Br2N2O4S
reactant | methylcellosolve | 2.3 ml | COCCO | C3H8O2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | water | 5 ml | O | H2O
product | benzhydryl 7-amino-3-(2,2-dibromovinyl)-3-cephem-4-carboxylate | 1.7 g | NC1[C@@H]2N(C(=C(CS2)C=C(Br)Br)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C22H18Br2N2O3S
